US08138197B2
tert-Butyl 6-[5-(methoxycarbonyl)-6-methyl-3-pyridinyl]-4-oxospiro[chroman-2,4′-piperidine]-1′-carboxylate
The mixture of tetramethyltin (1.14 ml), and PdCl2(PPh3)2 (97 mg), tert-butyl 6-[6-chloro-5-(methoxycarbonyl)-3-pyridinyl]-4-oxospiro[chroman-2,4′-piperidine]-1′-carboxylate (1.35 g) in dioxane (13 ml) was stirred at 180° C. for 15 min under microwave irradiation. The reaction mixture was evaporated, and purified by silica gel chromatography (hexane/ethyl acetate) to give the intended compound.

reactant | tetramethyltin | 1.14 ml | C[Sn](C)(C)C
reactant | tert-butyl 6-[6-chloro-5-(methoxycarbonyl)-3-pyridinyl]-4-oxospiro[chroman-2,4′-piperidine]-1′-carboxylate | 1.35 g | ClC1=C(C=C(C=N1)C=1C=C2C(CC3(CCN(CC3)C(=O)OC(C)(C)C)OC2=CC1)=O)C(=O)OC | C25H27ClN2O6
solvent | dioxane | 13 ml | O1CCOCC1 | C4H8O2
catalyst | PdCl2(PPh3)2 | 97 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-Butyl 6-[5-(methoxycarbonyl)-6-methyl-3-pyridinyl]-4-oxospiro[chroman-2,4′-piperidine]-1′-carboxylate | COC(=O)C=1C=C(C=NC1C)C=1C=C2C(CC3(CCN(CC3)C(=O)OC(C)(C)C)OC2=CC1)=O | C26H30N2O6
